US06506901B2
Step B: 4-Aminomethyl-1-isopropylpiperidine
Prepared from 1-isopropylpiperidine-4-carboxamide (2.5 g, 14.7 mmol) and LAH (1.12 g, 29.4 mmol) according to general the procedure used for Example 8 (Step B) to give 1.75 g of title compound as an oil.

reactant | 1-isopropylpiperidine-4-carboxamide | 14.7 mmol, 2.5 g | C(C)(C)N1CCC(CC1)C(=O)N | C9H18N2O
reactant | LAH | 29.4 mmol, 1.12 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
product | 4-Aminomethyl-1-isopropylpiperidine | 1.75 g | NCC1CCN(CC1)C(C)C | C9H20N2
